US04329518
Under a dry argon atmosphere 2,4,5,6-tetrafluoro-[1,1'-biphenyl]-3-carboxylic acid (21.6 g, 0.08 mole) was dissolved in 150 ml of tetrahydrofuran with stirring. During a 45 minute period 6.9 g of a borane-tetrahydrofuran complex (0.001 molar solution in tetrahydrofuran) was added to the reaction mixture. After complete addition, the reaction mixture was stirred at room temperature for approximately 23 hours. Water (5 ml) was added slowly to the reaction mixture, and the resultant mixture was stirred for two hours. The mixture was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give a residue, which was dissolved in diethyl ether and water. The organic phase was separated, washed with three 200 ml portions of 2 N aqueous sodium hydroxide, and dried over anhydrous magnesium sulfate. Filtration of the mixture and evaporation of the solvent from the filtrate gave 2,4,5,6-tetrafluoro-[1,1'-biphenyl]-3-methanol as an oil.

reactant | 2,4,5,6-tetrafluoro-[1,1'-biphenyl]-3-carboxylic acid | 0.08 mole, 21.6 g | FC1=C(C(=C(C(=C1C(=O)O)F)F)F)C1=CC=CC=C1 | C13H6F4O2
reactant | borane tetrahydrofuran | 0.001 molar, 6.9 g | B.O1CCCC1
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | Water | 5 ml | O | H2O
product | 2,4,5,6-tetrafluoro-[1,1'-biphenyl]-3-methanol | FC1=C(C(=C(C(=C1CO)F)F)F)C1=CC=CC=C1 | C13H8F4O
